US06274536B1
3-(3-Fluoro-5-methyl-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazole
2.0 g of 3-(3-fluoro-5-chloro-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazole (Example P15) are introduced into 6 ml of absolute dioxane. In order to remove the oxygen, gentle evacuation is carried out three times (water-jet pump) and the mixture is gassed with argon. 6.4 ml of a 2M solution of trimethylaiuminium in toluene and 0.10 g of tetrakistriphenylphosphinepalladium (Pd(PPh3)4) are added thereto. The mixture is heated to 90° C., with stirring, in an argon atmosphere. The next day the mixture is cooled to 22° C., a further 0.10 g of Pd(PPh3)4 and 6.4 ml of a 2M solution of trimethylaluminium in toluene are added and the mixture is stirred at 110° C. After 4 hours, TLC analysis of a worked-up sample shows that all the starting material has reacted. The reaction mixture is introduced carefully into cold, dilute hydrochloric acid and is then extracted with ethyl acetate. The combined organic phases are washed with brine, dried over sodium sulfate, filtered and concentrated by evaporation in vacuo. The crude product obtained is purified over a flash chromatography column (silica gel; eluant: n-hexane/ethyl acetate 1/1 (v/v)). 1.36 g of the desired compound are obtained in the form of a yellow oil, which slowly crystallises; melting point 41-42° C.

reactant | 3-(3-fluoro-5-chloro-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 2.0 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1Cl)OC(F)F)C | C10H6Cl2F3N3O
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 3-(3-Fluoro-5-methyl-2-pyridyl)-4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 1.36 g | FC=1C(=NC=C(C1)C)C1=NN(C(=C1Cl)OC(F)F)C | C11H9ClF3N3O
